US05169857
Ethyl 2-(4-fluorobenzyl)-4-methyl-pent-2-enoate
A solution of 210 g (1 mmol) of ethyl 4-fluorobenzoylacetate and 144 g (2 mol) of 2-methylpropanal are stirred overnight at 50° C. with 7 ml of piperidine and 5 ml of acetic acid in 100 ml of isopropanol. After reaction is complete, the batch is concentrated at about 15 Torr and the crude product (270 g, about 85%) is reacted without further purification.

reactant | ethyl 4-fluorobenzoylacetate | 1 mmol, 210 g | FC1=CC=C(C(=O)CC(=O)OCC)C=C1 | C11H11FO3
reactant | 2-methylpropanal | 2 mol, 144 g | CC(C=O)C | C4H8O
reactant | piperidine | 7 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | Ethyl 2-(4-fluorobenzyl)-4-methyl-pent-2-enoate | FC1=CC=C(CC(C(=O)OCC)=CC(C)C)C=C1 | C15H19FO2
